US06124343
4-(1,3-Benzodioxol-5-ylmethoxy)-2-hydroxybenzaldehyde
A mixture of 2,4-dihydroxybenzaldehyde (22.94 g), 3,4-methylenedioxybenzyl chloride (34 g), potassium carbonate (34.43 g), potassium iodide (41.33 g) and tetra-n-butylammonium bromide (6 g) in methyl ethyl ketone was heated at reflux for 3 hours. The reaction mixture was filtered and evaporated. The residue was partitioned between ethyl acetate (400 ml) and water (400 ml) and the aqueous phase extracted twice with ethyl acetate (200 ml). The combined organic phases were dried over magnesium sulphate and evaporated. The residual beige coloured solid was purified by flash chromatography on silica eluting initially with a mixture of pentane and ethyl acetate (95:5, v/v) then with a mixture of pentane and ethyl acetate (9:1, v/v) and finally with a mixture of pentane and ethyl acetate (85:15, v/v). Fractions homogenous in the required product were combined and evaporated to give the title compound (14.2 g) as a white solid.

reactant | 2,4-dihydroxybenzaldehyde | 22.94 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 3,4-methylenedioxybenzyl chloride | 34 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | potassium carbonate | 34.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 41.33 g | [I-].[K+]
catalyst | tetra-n-butylammonium bromide | 6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 4-(1,3-Benzodioxol-5-ylmethoxy)-2-hydroxybenzaldehyde | 14.2 g | O1COC2=C1C=CC(=C2)COC2=CC(=C(C=O)C=C2)O | C15H12O5
